US07612114B2
6-{2-{[4-(2-Azepan-1-ylethyl)benzyl]ethylamino}-5-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-(2-ethylamino-5-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (50 mg) and 4-(2-azepan-1-ylethyl)benzoic acid hydrochloride (100 mg) according to an analogous synthetic method to Example 152, the title compound (40 mg) was obtained.

reactant | pivalic acid 6-(2-ethylamino-5-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 50 mg | C(C)NC1=C(C=C(C=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | 4-(2-azepan-1-ylethyl)benzoic acid hydrochloride | 100 mg | Cl.N1(CCCCCC1)CCC1=CC=C(C(=O)O)C=C1
product | 6-{2-{[4-(2-Azepan-1-ylethyl)benzyl]ethylamino}-5-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 40 mg | N1(CCCCCC1)CCC1=CC=C(CCCNC2=C(C=C(C=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1 | C34H44N2O2
